US04468517
4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride
A mixture of 118 g. of dimethylaminothioacetamide, 92.4 g. of sodium bicarbonate, 140 g. of 1,3-dichloropropanone and 600 ml. of 1,2-dichloroethane was stirred at ambient temperature for 24 hours, and was then filtered. To the filtrate, at ice-bath temperature, was added 131 g. of thionyl chloride, dropwise. One hundred ml. of additional 1,2-dichloroethane was added, and the mixture was stirred for 2 hours at ambient temperature and then for 1 hour under reflux. The mixture was then chilled overnight, warmed to ambient temperature and filtered. The filter cake was washed with 200 ml. of 1,2-dichloroethane and blown dry, and the solids were dried overnight under vacuum to obtain 202.5 g. of the desired product, substantially identical to the product of Example 5.

reactant | dimethylaminothioacetamide | CN(C)CC(=S)N | C4H10N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1,3-dichloropropanone | ClCC(CCl)=O | C3H4Cl2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride | Cl.ClCC=1N=C(SC1)CN(C)C | InChI=1S/C7H11ClN2S.ClH/c1-10(2)4-7-9-6(3-8)5-11-7;/h5H,3-4H2,1-2H3;1H
